US09233946B2
3-{[(4-Bromo-5-chlorothiophen-2-yl)sulfonyl]amino}-2-hydroxybenzoic acid
A solution of 3-aminosalicylic acid (0.17 g, 1.11 mmol) and 3-bromo-2-chlorothiophene-5-sulfonyl chloride (0.33 g, 1.11 mmol) in aqueous dioxane (20 mL, 95:5 dioxane/water) was stirred at room temperature for 4 weeks. The pH of the reaction mixture was adjusted to about 9 using 1M Na2CO3 and then EtOAc (200 mL) and water (100 mL) were added. The organic phase was removed and the aqueous phase washed with more EtOAc. The pH of the aqueous phase was adjusted to about 3 with concentrated phosphoric acid and EtOAc (200 mL) was added. The aqueous phase was removed and the organic phase was washed with 1 M HCl and brine, dried over MgSO4, filtered and concentrated. The brown residue was recrystallized from aqueous MeOH at 60° C. The precipitate was collected by filtration and dried over night. The title compound was obtained in 53% yield (0.24 g). 1H NMR (500 MHz, MeOH-d4) δ ppm 6.92 (t, J=7.93 Hz, 1 H) 7.34 (s, 1 H) 7.65 (dd, J=7.93, 1.59 Hz, 1 H) 7.75 (dd, J=7.93, 1.59 Hz, 1 H). MS (ESI+) m/z 412 [M+H]+.

reactant | 3-aminosalicylic acid | 1.11 mmol, 0.17 g | NC1=C(C(C(=O)O)=CC=C1)O | C7H7NO3
reactant | 3-bromo-2-chlorothiophene-5-sulfonyl chloride | 1.11 mmol, 0.33 g | BrC1=C(SC(=C1)S(=O)(=O)Cl)Cl | C4HBrCl2O2S2
reactant | Na2CO3 | 1M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 3-{[(4-Bromo-5-chlorothiophen-2-yl)sulfonyl]amino}-2-hydroxybenzoic acid | 53% yield | BrC=1C=C(SC1Cl)S(=O)(=O)NC=1C(=C(C(=O)O)C=CC1)O | C11H7BrClNO5S2
